US07102000B2
To a solution of 2-fluoro-4-methoxy-benzaldehyde (13.98 g, 90.7 mmol) in toluene (100 mL) was added ethylene glycol (101 mL, 1.81 mol) and p-toluenesulfonic acid monohydrate (1.04 g, 5.44 mmol). The reaction mixture was heated at reflux for 16 hrs. The water was removed using a Dean Starck apparatus. After cooling, aqueous potassium carbonate (10%, 200 mL) was added and the mixture stirred for 30 minutes. The solution was extracted with ethyl acetate. The organic phase was washed successively with 10% aqueous potassium carbonate, brine and dried (MgSO4). The residue was purified on silica gel (eluent: 10% ethyl acetate in hexane) to give 9.187 g of 2-(2-fluoro-4-methoxy-phenyl)-[1,3] dioxolane (51%). 1H NMR (300 MHz; CDCl3): 3.81 (s, 3 H), 4.06 (m, 2 H), 4.15 (m, 2 H), 6.03 (s, 1 H), 6.60 (dd, J=12.3 and 2.7 Hz, 1 H), 6.72 (d, J=8.4 Hz, 1 H), 7.44 (t, J=8.4 Hz, 1 H).

reactant | 2-fluoro-4-methoxy-benzaldehyde | 90.7 mmol, 13.98 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | ethylene glycol | 1.81 mol, 101 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 5.44 mmol, 1.04 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-fluoro-4-methoxy-phenyl)-[1,3] dioxolane | 9.187 g, 51% | FC1=C(C=CC(=C1)OC)C1OCCO1 | C10H11FO3
